US05665718
30 ml of methylamine (33% in ethanol) were added dropwise at 70° to a solution of 2.4 g (5.23 mmol) of (S)-2-[5-(8-oxo-11,11 a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-1-yl)-1,2,4-oxadiazol-3-yl-methyl]-2,3-dihydro-1H-isoindole-1,3-dione in 40 ml ethanol and the mixture was stirred at 70° for a further 2 hours. The reaction mixture was evaporated and the residue was chromatographed (silica gel, methylene chloride/methanol 20:1). There were obtained 1.60 g (93%) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one as colourless crystals of m.p. 227° (dec.).

reactant | methylamine | 30 ml | CN | CH5N
reactant | (S)-2-[5-(8-oxo-11,11 a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-1-yl)-1,2,4-oxadiazol-3-yl-methyl]-2,3-dihydro-1H-isoindole-1,3-dione | 5.23 mmol, 2.4 g | O=C1C2=C(N3C([C@H]4N1CC4)=C(N=C3)C3=NC(=NO3)CN3C(C4=CC=CC=C4C3=O)=O)C=CS2 | C22H14N6O4S
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 1.60 g, 93% | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C14H12N6O2S
